US07842688B2
c) 4-Bromomethyl-1-ethyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one
The mixture of 1.00 g of 1-ethyl-4-methyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one, 0.469 g of N-bromosuccinimide, 0.025 g of 2,2′-azobis(2-methylpropionitrile) and 0.037 g of dibenzoyl peroxide in 60 ml of carbon tetrachloride is heated to reflux with stirring. The reaction vessel is irradiated with a 150 W lamp over the reaction time. After 0.5 hour, the reaction mixture is cooled and filtered through Hyflo. The filtrate is concentrated. The title compound is obtained as a yellow resin from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (40:1 dichloromethane-diethyl ether); Rt=5.80.

reactant | 1-ethyl-4-methyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one | 1.00 g | C(C)N1C(N(C2=C1C=CC=C2C)COCC[Si](C)(C)C)=O | C16H26N2O2Si
reactant | N-bromosuccinimide | 0.469 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.025 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | dibenzoyl peroxide | 0.037 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-1-ethyl-3-(2-trimethylsilanylethoxymethyl)-1,3-dihydrobenzimidazol-2-one | BrCC1=CC=CC=2N(C(N(C21)COCC[Si](C)(C)C)=O)CC | C16H25BrN2O2Si
